US07605170B2
1-(4-Methoxybenzyloxy)-2-methyl-3-phenoxybenzene (205 mg, 0.64 mmol) was dissolved in ethanol (5 mL) and palladium on charcoal 10% wt (60 mg) was added. The reaction mixture was agitated under an atmosphere of hydrogen (1 atm) for 72 h. The crude reaction mixture was filtered over dicalite and the solvents removed in vacuo. The crude product was taken up in DCM (4 mL) and 1N NaOH (aq) (4 mL) and the aqueous layer was separated, then acidified to pH 1 with 5N HCI (aq). The aqueous layer was extracted with DCM (10 mL) and the combined organics were concentrated in vacuo. The crude material was then purified by chromatography on silica gel. Elution with 5:95 ethyl acetate:heptane afforded 2-methyl-3-phenoxyphenol (43 mg, 0.21 mmol, 34%).

reactant | 1-(4-Methoxybenzyloxy)-2-methyl-3-phenoxybenzene | 0.64 mmol, 205 mg | COC1=CC=C(COC2=C(C(=CC=C2)OC2=CC=CC=C2)C)C=C1 | C21H20O3
reactant | heptane | CCCCCCC | C7H16
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-methyl-3-phenoxyphenol | 0.21 mmol, 43 mg, 34% | CC1=C(C=CC=C1OC1=CC=CC=C1)O | C13H12O2
